US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-6-methyl-1,4-methanonapthalene-5,8-dione.
To a mixture of methyl-p-benzoquinone (60 g.), and hexachlorocyclopentadiene (140 g.), was added 20 ml. of toluene. This reaction mixture was then heated at 130-140° C. for 3 hours. Upon cooling to room temperature the mixture solidified. This solid was washed with Skelly "B" solvent several times on a Buchner funnel and recrystallized from a Skelly "B"-benzene mixed solvent (20/80). Pale yellow crystals were obtained, m.p. 163°-165° C.

reactant | methyl-p-benzoquinone | 60 g | CC=1C(C=CC(C1)=O)=O | C7H6O2
reactant | hexachlorocyclopentadiene | 140 g | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-6-methyl-1,4-methanonapthalene-5,8-dione | ClC12C(=C(C(C3C(C(=CC(C13)=O)C)=O)(C2(Cl)Cl)Cl)Cl)Cl | C12H6Cl6O2
